US07642264B2
3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.465 g, 0.951 mmol) by treatment with commercially available 2,2,2-trifluorethylamine [CAS-no. 753-90-2] (0.15 ml, 1.9 mmol) and triethylamine (1.33 ml, 9.51 mmol) in THF (5 ml) at 23° C. for 16 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.220 g, 46%) as an off-white solid. MS (ISP) 552.2 [(M+H)+]; mp 198° C.

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.951 mmol, 0.465 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | 2,2,2-trifluorethylamine | 1.9 mmol, 0.15 ml | FC(CN)(F)F | C2H4F3N
reactant | triethylamine | 9.51 mmol, 1.33 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide | 0.220 g, 46% | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)NCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C26H19F6N3O2S
